US05534529
N-{2-t-Butyl-5-[4-cyclohexyl-3-(t-butyldimethylsilyloxy)butyl]phenyl}-2,2-dimethyldodecanamide
Following a procedure similar to that described in Example 21, but using 2,2-dimethyldodecanoic acid and 2-t-butyl-5-[4-cyclohexyl-3-(t-butyldimethylsilyloxy)butyl]aniline [prepared by a procedure similar to that described in Preparation 11(i)] as starting materials, in relative proportions similar to those used in that Example, the title compound was obtained as a foam-like material.

reactant | 2,2-dimethyldodecanoic acid | CC(C(=O)O)(CCCCCCCCCC)C | C14H28O2
reactant | 2-t-butyl-5-[4-cyclohexyl-3-(t-butyldimethylsilyloxy)butyl]aniline | C(C)(C)(C)C1=C(N)C=C(C=C1)CCC(CC1CCCCC1)O[Si](C)(C)C(C)(C)C | C26H47NOSi
product | N-{2-t-Butyl-5-[4-cyclohexyl-3-(t-butyldimethylsilyloxy)butyl]phenyl}-2,2-dimethyldodecanamide | C(C)(C)(C)C1=C(C=C(C=C1)CCC(CC1CCCCC1)O[Si](C)(C)C(C)(C)C)NC(C(CCCCCCCCCC)(C)C)=O | C40H73NO2Si
